US05635510
26.2 Synthesis of 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid methyl-ester
The method of example 3.3 was used with 2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate (5 mmol) and 4-phenyl-piperidine-4-carboxylic acid methyl-ester hydrochloride (6 mmol, 1.2 eq.) to obtain a residue. The residue was chromatographed on silica gel eluting sequentially with 1% methanol in dichloromethane and then 2% methanol in dichloromethane to give the title compound:

reactant | 2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate | 5 mmol | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCCS(=O)(=O)[O-]
reactant | 4-phenyl-piperidine-4-carboxylic acid methyl-ester hydrochloride | 6 mmol, 1.2 eq. | Cl.COC(=O)C1(CCNCC1)C1=CC=CC=C1
product | 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid methyl-ester | COC(=O)C1(CCN(CC1)CCC1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C1=CC(=C(C=C1)Cl)Cl)C1=CC=CC=C1 | C35H40Cl2N2O6
